US08383642B2
Ethyl (3S)-3-[4-[[4-[(tert-butyl(diphenyl)silyl)oxymethyl]-3-methyl-phenyl]methoxy]phenyl]hex-4-ynoate
To a solution of 1,1′-(azodicarbonyl)dipiperidine (0.770 g, 3.075 mmol) in THF is added tributylphosphine (50% in EtOAc, 7.17 mL, 3.58 mmol) at 0-5° C. The reaction mixture is stirred for 30 minutes at room temperature. [4-(tert-butyl-diphenyl-silanyloxymethyl)-3-methyl-phenyl]-methanol (0.8 g, 2.05 mmol) is added at 0° C. The reaction mixture is stirred for 30 min and 3-(4-hydroxy-phenyl)-hex-4-ynoic acid ethyl ester (0.523 g, 2.25 mmol) is added. The mixture is warmed to room temperature and stirred overnight. Hexane (75 mL) is added to the reaction mixture and the precipitate formed is filtered off. The filtrate is concentrated under reduced pressure. The residue is purified by silica gel column chromatography (gradient of 10 to 30% EtOAc:hexane) to give the title compound (1.3 g, 83%). 1H (d6-DMSO, 400 MHz) δ 7.70-7.68 (d, J=8 Hz, 3H), 7.53-7.51 (d, J=8 Hz, 1H), 7.42-7.41 (m, 5H), 7.39-7.35 (m, 4H), 7.29-7.25 (d, J=16 Hz, 2H), 6.93-6.91 (d, J=8 Hz, 2H), 5.00 (s, 2H), 4.72 (s, 2H), 4.13-4.11 (q, J=8 Hz, 2H), 2.72-2.65 (m, 2H), 2.36 (s, 1H), 2.18 (s, 2H), 1.82 (s, 3H), 1.27-1.23 (t, J=8 Hz, 3H), 1.087 (s, 9H).

reactant | 1,1′-(azodicarbonyl)dipiperidine | 3.075 mmol, 0.770 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 3.58 mmol, 7.17 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | [4-(tert-butyl-diphenyl-silanyloxymethyl)-3-methyl-phenyl]-methanol | 2.05 mmol, 0.8 g | C(C)(C)(C)[SiH2]OC(C1=C(C=C(C=C1)CO)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H30O2Si
reactant | 3-(4-hydroxy-phenyl)-hex-4-ynoic acid ethyl ester | 2.25 mmol, 0.523 g | C(C)OC(CC(C#CC)C1=CC=C(C=C1)O)=O | C14H16O3
reactant | Hexane | 75 mL | CCCCCC | C6H14
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl (3S)-3-[4-[[4-[(tert-butyl(diphenyl)silyl)oxymethyl]-3-methyl-phenyl]methoxy]phenyl]hex-4-ynoate | 1.3 g, 83% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C=C(C=C1)COC1=CC=C(C=C1)[C@H](CC(=O)OCC)C#CC)C | C39H44O4Si
